US06660736B2
2-(2-Ethanesulfinyl-ethyl)-5-(4-fluoro-benzyloxy)-isoindole-1,3-dione
A mixture of 2-(2-ethylsulfanyl-ethyl)-5-(4-fluoro-benzyloxy)-isoindole-1,3-dione (96 mg, 0.27 mmol) and 3-phenyl-2-(phenylsulfonyl)oxaziridine (84 mg, 0.32 mmol) in CH2Cl2 (3 mL) was stirred at room temperature for 72 h. Then the mixture was evaporated and the residue was purified by chromatography (SiO2, CH2Cl2:2N NH3/MeOH 97:3 to 9:1) to afford the title compound (34 mg, 34%) as a white solid. MS: m/e=375.2 (M+H+).

reactant | 2-(2-ethylsulfanyl-ethyl)-5-(4-fluoro-benzyloxy)-isoindole-1,3-dione | 0.27 mmol, 96 mg | C(C)SCCN1C(C2=CC=C(C=C2C1=O)OCC1=CC=C(C=C1)F)=O | C19H18FNO3S
reactant | 3-phenyl-2-(phenylsulfonyl)oxaziridine | 0.32 mmol, 84 mg | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-Ethanesulfinyl-ethyl)-5-(4-fluoro-benzyloxy)-isoindole-1,3-dione | 34 mg, 34% | C(C)S(=O)CCN1C(C2=CC=C(C=C2C1=O)OCC1=CC=C(C=C1)F)=O | C19H18FNO4S
